US07112698B2
(E)-1-(4-butoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-192)
To a stirred solution of 4-butoxybenzaldehyde (1.64 ml, 9.5 mmol) and 3,4,5-trimethoxyacetophenone (2.0 g, 9.5 mmol) in methanol (30 ml) was added 50% w/v of aqueous sodium hydroxide (7.6 ml, 0.095 mol). The reaction was stirred for 24 h at room temperature. A precipitate was isolated by filtration, washed with pet:ether and subsequently recrystallised from ethanol to give 3.0 g (85%) of a pale yellow powder. 1H-NMR (CDCl3) δ 7.8 (d, 1H), 7.6 (d, 2H), 7.4 (d, 1H), 7.25 (d, 2H), 7.0 (d, 2H), 4.05 (t, 2H), 4.0 (s×2, 9H), 1.8 (m, 2H), 1.5 (m, 2H), 1.0 (t, 3H). Mass Spectrum m/e (M+1) 370.

reactant | 4-butoxybenzaldehyde | 9.5 mmol, 1.64 ml | C(CCC)OC1=CC=C(C=O)C=C1 | C11H14O2
reactant | 3,4,5-trimethoxyacetophenone | 9.5 mmol, 2.0 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | sodium hydroxide | 0.095 mol, 7.6 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(4-butoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 3.0 g, 85% | C(CCC)OC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C22H26O5
